US07709647B2
1D. 3-Amino-1,2,3,4-tetrahydroquinoline-6-carbonitrile, dihydrochloride
To a solution of (6-cyano-1,2,3,4-tetrahydroquinolin-3-yl)-carbamic acid tert-butyl ester (546 mg, 2 mmol), prepared as described in Example 1C, in CH2Cl2 (5 mL) at 0° C. was added 4 M HCl in dioxane (4 mL, 16 mmol). After addition, the reaction mixture was stirred at RT for 2 h, then concentrated. The residue was stripped with ether (3×), and the resulting off-white solid dried in vacuo to afford the title compound (490 mg, 100%).

reactant | (6-cyano-1,2,3,4-tetrahydroquinolin-3-yl)-carbamic acid tert-butyl ester | 2 mmol, 546 mg | C(C)(C)(C)OC(NC1CNC2=CC=C(C=C2C1)C#N)=O | C15H19N3O2
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 16 mmol, 4 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-Amino-1,2,3,4-tetrahydroquinoline-6-carbonitrile, dihydrochloride | 490 mg, 100% | Cl.Cl.NC1CNC2=CC=C(C=C2C1)C#N | InChI=1S/C10H11N3.2ClH/c11-5-7-1-2-10-8(3-7)4-9(12)6-13-10;;/h1-3,9,13H,4,6,12H2;2*1H
